US06518423B1
Methyl (1-benzyl-4-vinylpiperidin-4-yl)acetate
To a solution of 0.486 g of (1-benzyl-4-vinylpiperidin-4-yl)acetaldehyde in N,N-dimethylformamide (10 ml) were added 0.48 g of methanol and 4.50 g of pyridinium dichromate and the resulting mixture was stirred at room temperature for 20 hours. After adding 100 ml of diethyl ether, the reaction mixture was filtered through celite. After concentrating under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 0.321 g of the title compound as a colorless oily substance.

reactant | (1-benzyl-4-vinylpiperidin-4-yl)acetaldehyde | 0.486 g | C(C1=CC=CC=C1)N1CCC(CC1)(C=C)CC=O | C16H21NO
reactant | methanol | 0.48 g | CO | CH4O
reactant | pyridinium dichromate | 4.50 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Methyl (1-benzyl-4-vinylpiperidin-4-yl)acetate | 0.321 g | C(C1=CC=CC=C1)N1CCC(CC1)(C=C)CC(=O)OC | C17H23NO2
